US07989657B2
To 2-amino-benzoic acid methyl ester (0.51 mL) and triethylamine (0.69 mL) in dichloromethane (31 mL) at −50° C. was slowly added a solution of 4-benzyloxy-benzoyl chloride [1486-50-6] (1 g) in 31 mL of dichloromethane. The reaction mixture was then allowed to warm up to room temperature and stirred for an additional hour. After such time, the reaction mixture was washed with water. The aqueous phase was further extracted with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography (heptane-ethyl acetate: 0-50%) to yield 2-(4-benzyloxy-benzoylamino)-benzoic acid methyl ester (400 mg). MS (m/e): 362.5 (M+H+, 100%).

reactant | 2-amino-benzoic acid methyl ester | 0.51 mL | COC(C1=C(C=CC=C1)N)=O | C8H9NO2
reactant | triethylamine | 0.69 mL | C(C)N(CC)CC | C6H15N
reactant | 4-benzyloxy-benzoyl chloride | 1 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)Cl)C=C1 | C14H11ClO2
solvent | dichloromethane | 31 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 31 mL | ClCCl | CH2Cl2
product | 2-(4-benzyloxy-benzoylamino)-benzoic acid methyl ester | 400 mg | COC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C22H19NO4
